US05620966
N-(4-bromophenyl)-2-pyrrolidinone
8.06 g of N-phenylpyrrolidinone were dissolved in 33 ml glacial acetic acid; the mixture was cooled to 0°-5° C. and then a solution of 2.65 ml bromine in 12 ml of glacial acetic acid was added dropwise. Stirring was continued for 30 minutes at room temperature. Work-up was accomplished by pouring the mixture into 1 l of water and neutralizing the mixture with KOH. The solid was filtered and dissolved in ethylacetate and washed with a sodium thiosulphate solution until the brown colour disappeared; washing with brine and drying with MgSO4 provided 8.5 g of a white crystalline mass that could be recrystallized from ether; m.p. 102° C.

reactant | N-phenylpyrrolidinone | 8.06 g | C1(=CC=CC=C1)N1C(CCC1)=O | C10H11NO
reactant | bromine | 2.65 ml | BrBr | Br2
reactant | water | 1 l | O | H2O
reactant | KOH | [OH-].[K+]
solvent | acetic acid | 33 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 12 ml | C(C)(=O)O | C2H4O2
product | N-(4-bromophenyl)-2-pyrrolidinone | BrC1=CC=C(C=C1)N1C(CCC1)=O | C10H10BrNO
